US07297709B2
N-(4-bromo-2-ethylphenyl)-N′-(2-fluoro-5-methylphenyl)urea
A solution of 4-bromo-2-ethylaniline (200 mg) in dichloromethane (10 mL) was treated with 1-fluoro-2-isocyanato-4-methylbenzene (151 mg), stirred at room temperature overnight, diluted with hexanes, and filtered. The filter cake provided 227 mg of the desired product. MS (ESI(+)) m/e 351,353 (M+H)+.

reactant | 4-bromo-2-ethylaniline | 200 mg | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
reactant | 1-fluoro-2-isocyanato-4-methylbenzene | 151 mg | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2-ethylphenyl)-N′-(2-fluoro-5-methylphenyl)urea | 227 mg | BrC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)CC | C16H16BrFN2O
